US07994185B2
Step B: 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperazinecarboxylate
NBS (0.21 g, 1.2 mmol) was added to a stirring solution of N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide (0.50 g, 1.13 mmol) in DMA (5.5 ml) at rt. The reaction was allowed to stir for 15 min, then 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate (0.55 g, 2.26 mmol) was added and the reaction was allowed to stir for 1 h. LCMS analysis indicated the reaction had progressed sufficiently, the reaction was poured into water and the bright yellow precipitate was collected by filtration. The filter cake was dissolved in DCM, dried over MgSO4, filtered and the filtrate was concentrated onto silica gel. Purification by flash chromatography afforded the title compound of Step B (0.36 g, 45% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.79 (s, 1H), 8.32 (d, J=5.5 Hz, 1H), 7.25-7.64 (m, 6H), 6.47 (d, J=5.5 Hz, 1H), 3.53-3.58 (m, 4H), 3.43-3.51 (m, 4H), 1.42 (s, 9H).

reactant | NBS | 1.2 mmol, 0.21 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 1.13 mmol, 0.50 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
reactant | 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate | 2.26 mmol, 0.55 g | NC(=S)N1CCN(CC1)C(=O)OC(C)(C)C | C10H19N3O2S
reactant | water | O | H2O
solvent | DMA | 5.5 ml | CC(=O)N(C)C | C4H9NO
product | 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperazinecarboxylate | 0.36 g, 45% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C28H26ClF3N6O4S2
